US07067506B2
Step 1: 2-Azido-3,6-dimethylpyrazine.
To a stirred solution of 2-chloro-3,5-dimethyl pyrazine (1.0 mL; 8.3 mmol) in dimethylformamide (10 ml,) was added sodium azide (539 mg; 8.3 mmol). The reaction was heated to 100° C. and stirred for 12 hours. The reaction was cooled to room temperature, diluted with 50 mL of ethyl acetate and washed with aqueous 10% sodium carbonate (1×50 mL), brine (50 mL), then dried (MgSO4), and filtered. The material was purified using a biotage 12L cartridge eluting with hexanes and ethyl acetate (3: 1) to yield an off white solid (42% yield).

reactant | 2-chloro-3,5-dimethyl pyrazine | 8.3 mmol, 1.0 mL | ClC1=NC=C(N=C1C)C | C6H7ClN2
reactant | sodium azide | 8.3 mmol, 539 mg | [N-]=[N+]=[N-].[Na+]
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 2-Azido-3,6-dimethylpyrazine | 42% yield | N(=[N+]=[N-])C1=NC(=CN=C1C)C | C6H7N5
